US06982348B2
To a solution of 6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-one (24.99 g, 156.0 mmol) and dimethyl carbonate (42.2 g, 468 mmol) in tetrahydrofuran (150 ml) was added a suspension (12.5 g, 312 mmol) of 60% sodium hydride in liquid paraffin at room temperature and the mixture was heated under reflux for 1 hr. The reaction solution was poured into water, acidified with 1N hydrochloric acid and extracted twice with ethyl acetate. The collected organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=15/1) to give methyl 5-oxo-6,7,8,9-tetrahydro-5H-benzo[a]cycloheptene-6-carboxylate as a yellow liquid.

reactant | 6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-one | 156.0 mmol, 24.99 g | C1=CC=CC2=C1CCCCC2=O | C11H12O
reactant | dimethyl carbonate | 468 mmol, 42.2 g | C(OC)(OC)=O | C3H6O3
reactant | sodium hydride | 312 mmol, 12.5 g | [H-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | methyl 5-oxo-6,7,8,9-tetrahydro-5H-benzo[a]cycloheptene-6-carboxylate | O=C1C2=C(CCCC1C(=O)OC)C=CC=C2 | C13H14O3
